US05814648
C: 4,5-Dihydro-2-(2-fluoro-3-hydroxyphenyl)-5(R)-phenyloxazole
To a solution of 2-(3-tert-butyldimethylsilyloxy-2-fluorophenyl)-4,5-dihydro-5(R)-phenyloxazole (2.2 g, 5.8 mmol) in THF (20 ml) was added dropwise tetrabutylammonium fluoride (1M in THF, 7 ml). The reaction mixture was stirred at ambient temperature for 10 min., volatiles removed by evaporation and the resulting residue was purified by column chromatography on silica gel eluting with hexane-ethyl acetate (3:2) to afford the title compound (1.3 g, 86%) as colorless solids.

reactant | 2-(3-tert-butyldimethylsilyloxy-2-fluorophenyl)-4,5-dihydro-5(R)-phenyloxazole | 5.8 mmol, 2.2 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C=CC1)C=1O[C@@H](CN1)C1=CC=CC=C1)F | C21H26FNO2Si
reactant | tetrabutylammonium fluoride | 1M, 7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4,5-Dihydro-2-(2-fluoro-3-hydroxyphenyl)-5(R)-phenyloxazole | 1.3 g, 86% | FC1=C(C=CC=C1O)C=1O[C@@H](CN1)C1=CC=CC=C1 | C15H12FNO2
